US06559167B1
Preparation of N-(4-{[2-({[3-methyl-4-(2,2,2-trifluoroethoxy)-2-pyridyl]methyl}sulfinyl)benzimidazol-1-yl]sulfonyl}phenyl)urea
2-[[[3-Methyl-4-(2,2,2-trifluoroethoxy)-2-pyridyl]methyl]sulfinyl]-1H-benzimidazole (185 mg) dissolved in 30 ml of dichloromethane and 0.4 ml of triethylamine was added to 128 mg of N-[4-(chlorosulfonyl)phenyl]urea. The reaction mixture was stirred at room temperature overnight. The reaction mixture was washed with water and 0.1N sodium bicarbonate solution.

reactant | 2-[[[3-Methyl-4-(2,2,2-trifluoroethoxy)-2-pyridyl]methyl]sulfinyl]-1H-benzimidazole | 185 mg | CC=1C(=NC=CC1OCC(F)(F)F)CS(=O)C1=NC2=C(N1)C=CC=C2 | C16H14F3N3O2S
reactant | triethylamine | 0.4 ml | C(C)N(CC)CC | C6H15N
reactant | N-[4-(chlorosulfonyl)phenyl]urea | 128 mg | ClS(=O)(=O)C1=CC=C(C=C1)NC(=O)N | C7H7ClN2O3S
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N-(4-{[2-({[3-methyl-4-(2,2,2-trifluoroethoxy)-2-pyridyl]methyl}sulfinyl)benzimidazol-1-yl]sulfonyl}phenyl)urea | CC=1C(=NC=CC1OCC(F)(F)F)CS(=O)C1=NC2=C(N1S(=O)(=O)C1=CC=C(C=C1)NC(=O)N)C=CC=C2 | C23H20F3N5O5S2
